US08580762B2
Step 3. 2-{3-[methoxy(methyl)carbamoyl]cyclobutyl}acetic acid
Palladium on charcoal (10%, 0.1 g) was added to a solution of benzyl 2-{3-[methoxy(methyl)carbamoyl]cyclobutylidene}acetate (1.54 g, 5.32 mmol) in EtOH (20 ml) and stirred under an atmosphere of hydrogen at RT for 6 h. The reaction mixture was filtered through celite and evaporated to dryness to give a colorless oil (1.04 g, 89%); MS (ESI+) for C9H15NO4 m/z 202.00 [M+H]+; MS (ESI)− for C9H15NO4 m/z 200.05 [M−H]−; HPLC purity 92% (ret. time, 1.10 min); 1H NMR (500 MHz, MeOD) δH ppm 1.84-2.08 (2 H, m), 2.28-2.53 (4 H, m), 2.56-2.72 (1 H, m), 3.06-3.22 (3 H, m), 3.38-3.56 (1 H, m), 3.68 (3 H, d, J=8.04 Hz).

reactant | benzyl 2-{3-[methoxy(methyl)carbamoyl]cyclobutylidene}acetate | 5.32 mmol, 1.54 g | CON(C(=O)C1CC(C1)=CC(=O)OCC1=CC=CC=C1)C | C16H19NO4
catalyst | Palladium on charcoal | 0.1 g | [Pd] | Pd
solvent | EtOH | 20 ml | CCO | C2H6O
product | 2-{3-[methoxy(methyl)carbamoyl]cyclobutyl}acetic acid | 1.04 g, 89% | CON(C(=O)C1CC(C1)CC(=O)O)C | C9H15NO4
